US08067408B2
Bromine (13.7 g, 86.0 mmol) in CHCl3 (20 mL) was added to the solution of 2-(methyloxy)benzonitrile (10.9 g, 81.9 mmol) in CHCl3 (50 mL). The mixture was refluxed for 29 h. The reaction was allowed to cool to room temperature, and washed with saturated sodium bisulfite (50 mL), and brine (50 mL). The organic layer was dried over anhydrous sodium sulfate. Evaporation of the solvent afforded 5-bromo-2-(methyloxy)benzonitrile (12.4 g, 71%).

reactant | Bromine | 86.0 mmol, 13.7 g | BrBr | Br2
reactant | 2-(methyloxy)benzonitrile | 81.9 mmol, 10.9 g | COC1=C(C#N)C=CC=C1 | C8H7NO
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2-(methyloxy)benzonitrile | 12.4 g, 71% | BrC=1C=CC(=C(C#N)C1)OC | C8H6BrNO
